### ISSUE TITLE
`step`: `(kernel) deep recursion detected` when a bind destructures a tuple returned by a nested wrapper function (post-#897, kernel-side)

### ISSUE THREAD

**Issue by joshmh** [AeneasVerif/aeneas#1129]
## Summary

A **complete** `step`-through proof of a Hoare triple `f args ⦃ _ => True ⦄` is rejected by the
**kernel** with `(kernel) deep recursion detected` at `addDecl`, when `f` has a bind that
**destructures a tuple** returned by a **nested wrapper function** (a function that itself contains an
inner monadic bind), and the chain carries concrete/reducible arguments. The *elaborator* succeeds —
the five `step`s fully discharge the goal, no `sorry`, no unsolved goals — and only the kernel's
re-check overflows.

This is **distinct from #897**: that was the *elaborator's* `maxRecDepth` (default 512), fixed by
`withTransparency .instances <| isDefEq` in `Step.lean`. That fix only cheapens the *elaborator* defeq;
the **kernel** `addDecl` check ignores transparency, so it does not help. Here `maxRecDepth` is set to
`100000`, the preconditions are trivial, the postcondition is `fun _ => True`, and the elaborator
finishes — it is the kernel that overflows.

## Reproduction

Self-contained, `import Aeneas` only. Lean **v4.30.0**. Aeneas: our `Aeneas/Tactic/Step/Step.lean` is
blob `7939a97` — i.e. upstream between `45a2b085` ("Add support for ∃ in step post-conditions") and
`26cb810b` ("Implement the bindAssocPreservingNames simproc"); `main` HEAD `8dd8bfb` (2026-06-16). The
snapshot is **post-#897** (`withTransparency .instances <| isDefEq` is present at `Step.lean:523`).
Full file attached as `ReproNested.lean`; the crux:

```lean
-- `mac` : tuple-returning u128 multiply-accumulate leaf (sorry'd spec — the bug is the bind
--          assembly, not `mac`). C0..C3 : irreducible 2^64-scale constants.

-- A wrapper that RETURNS A TUPLE and contains its own inner `mac` bind (models `redc_prepare`):
def prepare  (m x0 : Std.U64) : Result (Std.U64 × Std.U64) := do
  let (_lo, c) ← mac m C0 x0 0#u64 ; ok (m, c)
-- The same wrapper RETURNING A STRUCT:
def prepareS (m x0 : Std.U64) : Result P        := do
  let (_lo, c) ← mac m C0 x0 0#u64 ; ok { m := m, c := c }
-- tail1..tail4 : struct-returning wrappers, each with its own inner `mac` bind.

def step_fn  (m x0 x1 x2 x3 x4 : Std.U64) : Result Std.U64 := do
  let (q, c) ← prepare m x0          -- FIRST bind destructures a TUPLE from a wrapper
  let p ← tail1 q c x1 ; let r ← tail2 q p.c1 x2
  let s ← tail3 q r.c2 x3 ; let t ← tail4 s.c3 x4 ; ok t.l4

def step_fns (m x0 x1 x2 x3 x4 : Std.U64) : Result Std.U64 := do
  let pr ← prepareS m x0             -- identical, first wrapper returns a STRUCT (single binder)
  let p ← tail1 pr.m pr.c x1 ; let r ← tail2 pr.m p.c1 x2
  let s ← tail3 pr.m r.c2 x3 ; let t ← tail4 s.c3 x4 ; ok t.l4

-- OK: kernel checks the struct-first chain.
example (m x0 x1 x2 x3 x4 : Std.U64) : step_fns m x0 x1 x2 x3 x4 ⦃ _ => True ⦄ := by
  unfold step_fns ; step as ⟨pr, _⟩ ; step as ⟨p, _⟩ ; step as ⟨r, _⟩ ; step as ⟨s, _⟩ ; step as ⟨t, _⟩

-- FAILS: `(kernel) deep recursion detected`. The five `step`s discharge the goal (COMPLETE proof,
-- no sorry / no unsolved goals) — only the kernel `addDecl` overflows.
example (m x0 x1 x2 x3 x4 : Std.U64) : step_fn m x0 x1 x2 x3 x4 ⦃ _ => True ⦄ := by
  unfold step_fn ; step as ⟨q, c, _⟩ ; step as ⟨p, _⟩ ; step as ⟨r, _⟩ ; step as ⟨s, _⟩ ; step as ⟨t, _⟩
```

`lake env lean ReproNested.lean` → the stubbed-spec `sorry` warnings + **exactly one** error:
`(kernel) deep recursion detected` at the `step_fn` example. `step_fns` compiles clean.

## The three necessary ingredients (each isolated by a passing control)

1. **The bind destructures a tuple** (vs a single struct binder). `step_fn` (tuple) fails; `step_fns`
   (struct) — otherwise byte-for-byte identical — passes. This is the whole asymmetry.
2. **The bound value comes from a nested wrapper** (a function with its own inner bind), not a direct
   leaf call. A *flat* chain of direct `mac` calls with a tuple-first bind compiles **clean** on a
   complete proof — nesting is required to trigger it. (Your own `Tests/UncurryBind.lean` exercises the
   flat tuple-bind case — `readPair` returns `ok (…, …)` with no inner bind — and passes; the nesting
   here is the new ingredient.)
3. **Concrete/reducible arguments** (the `2^64`-scale constants `C0..C3`). Replacing them with opaque
   variables makes even the tuple-first case pass — the kernel needs reducible arithmetic to chew on.

## Suspected mechanism

The tuple-destructuring bind makes the outermost continuation
`fun x => match x with | (a, b) => <entire remaining spec_bind chain>` — a `casesOn` wrapping the whole
nested chain. With the bound values coming from nested wrappers whose bodies contain reducible constant
arithmetic, the kernel's defeq during `addDecl` reduces those nested bodies *inside* that outer
`casesOn`, and the recursion overflows. A struct binder does not produce the `casesOn`-over-the-whole-
chain shape, so the kernel checks it.

## Fix directions

1. In `step` / the `do`-elaboration, emit projections (`x.1`, `x.2`) rather than a `match`-destructure
   at tuple bind points, so the continuation is not a `casesOn` over the whole chain.
2. Reformulate `spec_bind` / `qimp_spec` / `uncurry'` so the kernel-facing term for tuple binds avoids
   the nested-`casesOn` shape.
3. If this is ultimately a Lean-kernel defeq-on-nested-`casesOn` performance issue, it may belong
   upstream in `leanprover/lean4` (a minimal non-Aeneas reproduction would help — not yet attempted).

The codegen workaround (return **structs** at bind points so binds are single binders) is a clean local
fix, but `step`/`spec_bind` should ideally handle tuple binds directly.

## Notes

- A hand-written `apply WP.spec_bind` proof of the same triple (the framework's own `add2`-style idiom
  from `WP.lean`) did **not** give a clean result: under an 18 GB memory cap it **exhausted memory**
  rather than emitting the guarded `(kernel) deep recursion`. We could not cleanly diagnose that (a
  worse blow-up of the same term, vs. a malformed hand proof), so we make **no** claim about whether
  the failure is `step`-tactic-specific — though a memory explosion under the framework's own bind
  lemma is at least consistent with the *term* (not the tactic) being the problem. The verified
  statement is exactly the `step`-through above (complete proof, kernel-rejected).
- The stubbed (`sorry`'d) specs are irrelevant to the bug — the kernel rejects the *bind assembly*, and
  the `sorry`s only affect the (unused) correctness content of the leaf/wrapper specs.

---

## Full self-contained reproduction (`ReproNested.lean`)

<details><summary><code>import Aeneas</code> only. <code>lake env lean ReproNested.lean</code> &rarr; the stubbed-spec <code>sorry</code> warnings + exactly one <code>(kernel) deep recursion detected</code> at the <code>step_fn</code> example; <code>step_fns</code> compiles clean.</summary>

```lean
import Aeneas

/-! # Faithful repro attempt #2: NESTED wrappers + COMPLETE proof.

Attempt #1 (`ReproTupleBind.lean`, a flat `mac`-chain) did NOT reproduce: complete proofs passed; the
deep-recursion there was an incomplete-proof (`sorryAx`-hole) artifact. The real `redc_step` differs
structurally — its binds are NESTED wrapper functions (`redc_prepare`/`redc_tail*`, each its own inner
`mac` bind-chain), not direct `mac` calls. This file models that 2-level nesting and runs each
`step`-through to COMPLETION (so a `(kernel) deep recursion` here, with NO "unsolved goals", is the
genuine phenomenon).

* `step_fn`  — first bind destructures a TUPLE from a wrapper (`let (q,c) ← prepare …`).
* `step_fns` — identical, but the first wrapper returns a STRUCT (`let p ← prepareS …`).

Run: `lake env lean ReproNested.lean`
-/

open Aeneas Aeneas.Std Result

namespace ReproNested

set_option maxRecDepth 100000

/-- Tuple-returning leaf (Aeneas `u128` multiply-accumulate shape). -/
def mac (a b c carry : Std.U64) : Result (Std.U64 × Std.U64) := do
  let i ← lift (UScalar.cast .U128 a)
  let i1 ← lift (UScalar.cast .U128 b)
  let i2 ← i * i1
  let i3 ← lift (UScalar.cast .U128 c)
  let i4 ← i2 + i3
  let i5 ← lift (UScalar.cast .U128 carry)
  let t ← i4 + i5
  let lo ← lift (UScalar.cast .U64 t)
  let i6 ← t >>> 64#i32
  let hi ← lift (UScalar.cast .U64 i6)
  ok (lo, hi)

@[local step]
theorem mac_spec (a b c carry : Std.U64) :
    mac a b c carry ⦃ r => r.1.val + 2 ^ 64 * r.2.val = a.val * b.val + c.val + carry.val ⦄ := by
  sorry

@[irreducible] def C0 : Std.U64 := 18446744069414584321#u64
@[irreducible] def C1 : Std.U64 := 6034159408538082302#u64
@[irreducible] def C2 : Std.U64 := 3691218898639771653#u64
@[irreducible] def C3 : Std.U64 := 8353516859464449352#u64

/-- Wrapper returning a TUPLE (models `redc_prepare`): an inner `mac` bind, returns `(m, carry)`. -/
def prepare (m x0 : Std.U64) : Result (Std.U64 × Std.U64) := do
  let (_lo, c) ← mac m C0 x0 0#u64
  ok (m, c)

@[local step]
theorem prepare_spec (m x0 : Std.U64) : prepare m x0 ⦃ r => r.1 = m ⦄ := by sorry

/-- Same wrapper, but returns a STRUCT. -/
structure P where
  m : Std.U64
  c : Std.U64

def prepareS (m x0 : Std.U64) : Result P := do
  let (_lo, c) ← mac m C0 x0 0#u64
  ok { m := m, c := c }

@[local step]
theorem prepareS_spec (m x0 : Std.U64) : prepareS m x0 ⦃ r => r.m = m ⦄ := by sorry

structure T1 where
  l0 : Std.U64
  c1 : Std.U64
def tail1 (m c x1 : Std.U64) : Result T1 := do
  let (lo, c') ← mac m C1 x1 c
  ok { l0 := lo, c1 := c' }
@[local step] theorem tail1_spec (m c x1 : Std.U64) : tail1 m c x1 ⦃ _ => True ⦄ := by sorry

structure T2 where
  l1 : Std.U64
  c2 : Std.U64
def tail2 (m c x2 : Std.U64) : Result T2 := do
  let (lo, c') ← mac m C2 x2 c
  ok { l1 := lo, c2 := c' }
@[local step] theorem tail2_spec (m c x2 : Std.U64) : tail2 m c x2 ⦃ _ => True ⦄ := by sorry

structure T3 where
  l2 : Std.U64
  c3 : Std.U64
def tail3 (m c x3 : Std.U64) : Result T3 := do
  let (lo, c') ← mac m C3 x3 c
  ok { l2 := lo, c3 := c' }
@[local step] theorem tail3_spec (m c x3 : Std.U64) : tail3 m c x3 ⦃ _ => True ⦄ := by sorry

structure T4 where
  l3 : Std.U64
  l4 : Std.U64
def tail4 (c x4 : Std.U64) : Result T4 := do
  let (lo, hi) ← mac 0#u64 0#u64 x4 c
  ok { l3 := lo, l4 := hi }
@[local step] theorem tail4_spec (c x4 : Std.U64) : tail4 c x4 ⦃ _ => True ⦄ := by sorry

/-- FIRST bind destructures a TUPLE from the wrapper `prepare`. -/
def step_fn (m x0 x1 x2 x3 x4 : Std.U64) : Result Std.U64 := do
  let (q, c) ← prepare m x0
  let p ← tail1 q c x1
  let r ← tail2 q p.c1 x2
  let s ← tail3 q r.c2 x3
  let t ← tail4 s.c3 x4
  ok t.l4

/-- Identical, but the first wrapper returns a STRUCT (single binder). -/
def step_fns (m x0 x1 x2 x3 x4 : Std.U64) : Result Std.U64 := do
  let pr ← prepareS m x0
  let p ← tail1 pr.m pr.c x1
  let r ← tail2 pr.m p.c1 x2
  let s ← tail3 pr.m r.c2 x3
  let t ← tail4 s.c3 x4
  ok t.l4

/-- STRUCT-first: expect kernel OK. -/
example (m x0 x1 x2 x3 x4 : Std.U64) : step_fns m x0 x1 x2 x3 x4 ⦃ _ => True ⦄ := by
  unfold step_fns
  step as ⟨pr, _⟩
  step as ⟨p, _⟩
  step as ⟨r, _⟩
  step as ⟨s, _⟩
  step as ⟨t, _⟩
  -- the five `step`s discharge the `True` postcondition; struct-first first bind ⇒ kernel OK.

/-- TUPLE-first via a wrapper: the decisive test. The five `step`s fully discharge the goal (COMPLETE
    proof, no `sorry`/unsolved goal) — yet the kernel's `addDecl` throws `(kernel) deep recursion`. -/
example (m x0 x1 x2 x3 x4 : Std.U64) : step_fn m x0 x1 x2 x3 x4 ⦃ _ => True ⦄ := by
  unfold step_fn
  step as ⟨q, c, _⟩
  step as ⟨p, _⟩
  step as ⟨r, _⟩
  step as ⟨s, _⟩
  step as ⟨t, _⟩

end ReproNested
```

</details>
